US04093613
(a) 4,4'-diacetamino-azobenzene
69 parts of 82% pure 4-aminoacetanilide, 80 parts of sodium perborate and 20 parts of boric acid in 1,000 parts by volume of glacial acetic acid are stirred at room temperature. After 5 minutes, a violet solution is produced, which is heated to 60°. At this temperature, an exothermic reaction takes place, and the temperature rises, without heating, to 70°. A beige precipitate separates out. The suspension thus obtained is stirred for a further 6 hours at 60° and is then cooled to 20° and filtered. The filter residue is washed with water until neutral and is dried in vacuo at 60°. The product is a beige powder which melts between 286° and 290°, with decomposition. The yield is 39.4 parts (70% of theory).

reactant | 4-aminoacetanilide | CC(=O)NC1=CC=C(C=C1)N | C8H10N2O
reactant | sodium perborate | B(=O)O[O-].[Na+]
reactant | boric acid | B(O)(O)O | BH3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,4'-diacetamino-azobenzene | N(C(=O)C)C1=CC=C(C=C1)N=NC1=CC=C(C=C1)NC(=O)C | C16H16N4O2
